.subckt AWF in out 0
C1 N002 N001 1.0µ
R1 N002 0 7.5k
C2 N003 N002 0.1µ
R2 N003 0 68k
C3 N004 N003 0.01µ
R3 N004 0 22k
C4 N005 N004 0.01µ
R4 N005 0 130k
R5 N006 N005 15k
C5 0 N006 0.001µ
R6 N007 N006 150k
C6 0 N007 100p
E2 out 0 N007 0 0.00164
E1 N001 0 in 0 1000
.ends AWF
